US04025626
To a solution of 8.6 g. (0.019 mol.) of 7-amino-3-[1-(2-ureidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester and 3.9 g. (0.019 mol.) of 2,2,2-trifluoroethylsulfonylacetic acid in tetrahydrofuran is added dropwise a solution of 3.9 g. (0.019 mol.) of dicyclohexylcarbodiimide in 100 ml. of tetrahydrofuran. The reaction mixture is stirred at 25° for 12 hours, then filtered and concentrated to about 10 ml. The residue is filtered and evaporated to dryness to give 7-(2,2,2-trifluoroethylsulfonylacetamido)-3-[1-(2-ureidoethyl)-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester.

reactant | 7-amino-3-[1-(2-ureidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester | 0.019 mol | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C(CCNC(=O)N)SC2=NN=NN2 | C16H24N8O4S2
reactant | 2,2,2-trifluoroethylsulfonylacetic acid | 0.019 mol | FC(CS(=O)(=O)CC(=O)O)(F)F | C4H5F3O4S
reactant | dicyclohexylcarbodiimide | 0.019 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-(2,2,2-trifluoroethylsulfonylacetamido)-3-[1-(2-ureidoethyl)-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2NC(CS(=O)(=O)CC(F)(F)F)=O)=O)C(CCNC(=O)N)SC2=NN=NN2 | C20H27F3N8O7S3
